US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(2-methylthiazole-5-carbonyl)thiosemicarbazide
The title compound was prepared from a mixture of bicyclo[2.2.1]hept-5-en-2-ylisothiocyanate (50 mg, 0.33 mmol) and 2-methylthiazole-5-carboxylic acid hydrazide (58 mg, 0.36 mmol) similar to Example 80 and isolated as a white solid (10 mg, 9%). 1H NMR (DMSO-d6): 10.11 (s, 1H), 9.34 (s, 1H), 8.22 (s, 1H), 7.73 (s, 1H), 6.07 (ddd, J=8.1, 5.1, 2.7 Hz, 2H), 3.99 (s, 1H), 2.82 (brs, J=8.8 Hz, 2H), 2.72 (s, 3H), 1.52-1.35 (m, 4H).

reactant | bicyclo[2.2.1]hept-5-en-2-ylisothiocyanate | 0.33 mmol, 50 mg | C12C(CC(C=C1)C2)N=C=S | C8H9NS
reactant | 2-methylthiazole-5-carboxylic acid hydrazide | 0.36 mmol, 58 mg | CC=1SC(=CN1)C(=O)NN | C5H7N3OS
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(2-methylthiazole-5-carbonyl)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NNC(=O)C2=CN=C(S2)C)=S | C13H16N4OS2
